US06262241B1
Synthesis of 5LO sequence 5′-GAA GTC ACT GGA ACG-3′ (SEQ ID NO:21) containing 2-octanoxyadenine at specific positions is described. A solution of N6-benzoyl-2′-deoxy-2-methyl-sulfonyladenosine, ethyl diisopropylamine, octanoylamine, and DMF is heated to 100° C. for 30 min and evaporated to dryness under reduced pressure. Recrystallization of the residue affords N6-benzoyl-2′-deoxyadenosine with the carbon chain in the 2-position. This material is converted by procedures of examples 107 and 108 above into its 5′-DMT-3′-β-cyanoethyldiisopropylphosphoramidite derivative which is inserted into the 5LO-sequence 5′-GAA GTC ACT GGA ACG (SEQ ID NO:21) via automated, solid phase DNA synthesis.

reactant | 2-octanoxyadenine | C(CCCCCCC)OC1=NC(=C2NC=NC2=N1)N | C13H21N5O
reactant | N6-benzoyl-2′-deoxy-2-methyl-sulfonyladenosine | C(C1=CC=CC=C1)(=O)NC=1C=2N=CN([C@H]3C([C@H](O)[C@@H](CO)O3)=S(=O)=O)C2N=C(N1)C | C18H17N5O6S
reactant | ethyl diisopropylamine | C(C)N(C(C)C)C(C)C | C8H19N
reactant | octanoylamine | C(CCCCCCC)(=O)N | C8H17NO
solvent | DMF | CN(C)C=O | C3H7NO
product | N6-benzoyl-2′-deoxyadenosine | C(C1=CC=CC=C1)(=O)NC=1C=2N=CN([C@H]3C[C@H](O)[C@@H](CO)O3)C2N=CN1 | C17H17N5O4
